US07776910B2
A solution of TBAF (1.0 M in THF, 3.6 mL) was added to a solution of 3-bromo-1-triisopropylsilanyl-1H-pyrrole (1.0 g, 3.308 mmol) in THF (10 mL) and the mixture was stirred at room temperature for 30 minutes. (BOC)2O (0.866 g, 3.965 mmol) and DMAP (40 mg, 0.3308 mmol) were added to the reaction and the resulting mixture was stirred for 2 additional hours. Water was added, and the mixture was extracted with EtOAc. The combined organic extracts were washed with water and with brine; dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc) to give 0.197 g (24% yield) of 3-bromo-pyrrole-1-carboxylic acid tert-butyl ester as a clear oil.

reactant | TBAF | 1.0 M, 3.6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | 3-bromo-1-triisopropylsilanyl-1H-pyrrole | 3.308 mmol, 1.0 g | BrC1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C13H24BrNSi
reactant | (BOC)2O | 3.965 mmol, 0.866 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.3308 mmol, 40 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-bromo-pyrrole-1-carboxylic acid tert-butyl ester | 0.197 g, 24% yield | C(C)(C)(C)OC(=O)N1C=C(C=C1)Br | C9H12BrNO2
